US06051712
A solution of 1.10 g (5.31 mmol) of (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol in 20 ml of dimethylformamide was treated at 0° C. with 0.59 g (5.82 mmol) of triethylamine and 1.22 g (5.57 mmol) of di-tert-butyl dicarbonate and the mixture was stirred at room temperature for 15 hours. Subsequently, the dimethylformamide was distilled off in an oil pump vacuum and, for purification, the residue was chromatographed on silica gel using a 98:2 mixture of methylene chloride and methanol as the eluent. There were obtained 1.51 g (92% of theory) of tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate as a colourless foam; MS: 233 (M-C4H10O)+.

reactant | (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-piperidin-3-ol | 5.31 mmol, 1.10 g | OCC1=CC=C(C=C1)C1C(CNCC1)O | C12H17NO2
reactant | triethylamine | 5.82 mmol, 0.59 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.57 mmol, 1.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate | 1.51 g, 92% | OC1CN(CCC1C1=CC=C(C=C1)CO)C(=O)OC(C)(C)C | C17H25NO4
